US07691892B2
a) 4-Ethyl-5-pyridin-4-yl-2,4-dihydro-[1,2,4]triazole-3-thione
The title compound (pale yellow solid, 16.7 g, 58%) was prepared from isonicotinoyl chloride hydrochloride (25.1 g, 140.8 mmol) and 4-ethyl-3-thiosemicarbazide (16.87 g, 141.5 mmol) in pyridine (185 ml) with sodium hydroxide (220 mL, 2M, 440 mmol) added to the intermediate formed to effect cyclization. 1H NMR (DMSO-d6) δ (ppm): 8.80 (dd, 2H), 7.72 (dd, 2H), 4.11 (q, 2H), 3.59 (t, 3H).

reactant | isonicotinoyl chloride hydrochloride | 140.8 mmol, 25.1 g | Cl.C(C1=CC=NC=C1)(=O)Cl
reactant | 4-ethyl-3-thiosemicarbazide | 141.5 mmol, 16.87 g | C(C)NC(NN)=S | C3H9N3S
reactant | sodium hydroxide | 440 mmol, 2M, 220 mL | [OH-].[Na+]
solvent | pyridine | 185 ml | N1=CC=CC=C1 | C5H5N
product | 4-Ethyl-5-pyridin-4-yl-2,4-dihydro-[1,2,4]triazole-3-thione | 16.7 g, 58% | C(C)N1C(NN=C1C1=CC=NC=C1)=S | C9H10N4S
